US07342031B2
To 2 g of N,N-dimethylformamide, 0.257 g of 5-chloro-3-(4-methylbenzyl)thio-1,2,4-thiadiazole and 0.145 g of 2,2-dimethyl-1,3-dioxolane-4-methanol were dissolved, and added 48 mg of sodium hydride (60% in oil) at about 0° C., followed by stirring at about 0° C. for 30 minutes and at room temperature for 4 hours. Then, the reaction mixture was added to saturated sodium chloride aqueous solution, and extracted with tert-butylmethylether. The organic layer was concentrated, and the residue obtaind was subjected to silica gel column chromatography to obtain 0.27 g of 5-(2,2-dimethyl-1,3-dioxolane-4-yl)methoxy-3-(4-methylbenzyl)thio-1,2,4-thiadiazole.

reactant | 5-chloro-3-(4-methylbenzyl)thio-1,2,4-thiadiazole | 0.257 g | ClC1=NC(=NS1)SCC1=CC=C(C=C1)C | C10H9ClN2S2
reactant | 2,2-dimethyl-1,3-dioxolane-4-methanol | 0.145 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 2 g | CN(C=O)C | C3H7NO
product | 5-(2,2-dimethyl-1,3-dioxolane-4-yl)methoxy-3-(4-methylbenzyl)thio-1,2,4-thiadiazole | 0.27 g | CC1(OCC(O1)COC1=NC(=NS1)SCC1=CC=C(C=C1)C)C | C16H20N2O3S2
